US05153210
A solution of (4-hydroxyphenyl)propan-2-one ethylene ketal (5 g) in ethanol (20 ml) was added to a stirred solution of sodium ethoxide in ethanol (1.26 g sodium in 50 ml). A suspension of 3-picolyl chloride hydrochloride (4.5 g) in ethanol (40 ml) was added, the mixture boiled for 41/2 hr, cooled and filtered. After evaporation of the solvent the residue was chromatographed on alumina. Elution with 10% methanol in dichloromethane gave a dark oil which was dissolved in methanol (50 ml) and boiled with 2M hydrochloric acid (40 ml) for 3 hours. Neutralisation with 2M sodium hydroxide solution followed by extraction into dichloromethane yielded an oil which was purified by bulb to bulb distillation at 70° C./0.4 mm to give [4-(3-pyridylmethyloxy)phenyl]propan-2-one.

reactant | (4-hydroxyphenyl)propan-2-one ethylene ketal | 5 g | C1COC(CC2=CC=C(C=C2)O)(C)O1 | C11H14O3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 3-picolyl chloride hydrochloride | 4.5 g | Cl.N1=CC(=CC=C1)CCl
reactant | hydrochloric acid | 2M, 40 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml, 1.26 g | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | methanol | 50 ml | CO | CH4O
product | [4-(3-pyridylmethyloxy)phenyl]propan-2-one | N1=CC(=CC=C1)COC1=CC=C(C=C1)CC(C)=O | C15H15NO2
